* M8 derivative of test/metrics/m7_canonical_jtl.cir (JH-20260812-M8-001)
* run: m8_jtl_convergence_zero_0.05ps.cir  dt=0.05ps  input=zero
* JTL Comprehensive Test — ColdFlux Standard Cell
* Probes every junction (phase/current/voltage) and every inductor current
*
* JTL Internal Structure (THmitll_JTL):
*   a--L1--1--B1--2--LP1--GND
*          |  RB1--LRB1--GND (bias tee)
*          L2
*          |
*          3--L3--5--B2--6--LP2--GND
*          |       |  RB2--LRB2--GND (bias tee)
*         LB1      L4
*          |       |
*          4       q (output)
*          |
*         IB1 (bias current source, 0->350uA at 5ps)
*          |
*         GND
*
* Parameters (computed at runtime):
*   B1=B2=IC=2.5 -> IC=250uA each
*   IB1=(B1+B2)*Ic0*BiasCoef=5*100uA*0.7=350uA
*   L1~L4=Phi0/(4*IC*Ic0)~2.07pH
*   RB1=RB2=B0Rs/IC~2.74ohm (for 2.6mV equivalent bias)

.include ../../circuits/models/jjmit.cir
.include ../../circuits/standard/JTL.cir

* ============================================================
* SFQ Input Pulse Generation
* V_IN = 1.5mV through R_IN=3ohm -> I_peak ~ 500uA
* This exceeds the JTL IC=250uA, triggering SFQ switching
* ============================================================
V_IN IN 0 pwl(0 0 10p 0 11p 0 13p 0 14p 0 100p 0)
R_IN IN N1 3
L_IN N1 SFQ_IN 0.5p

* ============================================================
* DUT: JTL under test
* ============================================================
XDUT SFQ_IN SFQ_MID THmitll_JTL

* ============================================================
* Load: second JTL for proper SFQ termination
* ============================================================
XLOAD SFQ_MID SFQ_OUT THmitll_JTL
R_TERM SFQ_OUT 0 1

* ============================================================
* Simulation
* ============================================================
.tran 0.05p 50p

* --- JTL DUT: Junction phases ---
* --- M7B: direct same-JJ V/P probes (pipeline calibration) ---
.print V(B1|XDUT) V(B2|XDUT) V(B1|XLOAD) V(B2|XLOAD) P(B1|XDUT) P(B2|XDUT) P(B1|XLOAD) P(B2|XLOAD)
.end
